US04833146
1-(5-Hydroxy-5-methylheptyl)-3,7-dimethylxantine
20.0 g (0.15 mol) of ethylmagnesium bromide are taken as a 40% strength solution in ether, and 27.8 g (0.1 mol) of 3,7-dimethyl-1-(5-oxohexyl)-xanthine in 1 liter of dry ether are metered in dropwise at room temperature, while stirring, whereupon a voluminous precipitate forms. The mixture is heated and is subsequently stirred, while boiling gently under reflux, for one hour. It is then worked up as described in the preceding Example 9 to give 25 g of oily crude product (81.1% of theory), which gradually crystallizes completely and is purified by recrystallization from diisopropyl ether, with the addition of a little ethyl acetate, at the boiling point.

reactant | ethylmagnesium bromide | 0.15 mol, 20.0 g | C(C)[Mg]Br
reactant | 3,7-dimethyl-1-(5-oxohexyl)-xanthine | 0.1 mol, 27.8 g | CN1C(N(C(C=2N(C=NC12)C)=O)CCCCC(C)=O)=O | C13H18N4O3
reactant | ether | CCOCC | C4H10O
reactant | ether | 1 liter | CCOCC | C4H10O
product | 1-(5-Hydroxy-5-methylheptyl)-3,7-dimethylxantine | 25 g, 81.1% | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)(CC)C | C15H24N4O3
